US06498172B1
3-(3-{[(Benzofuran-2-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester
The title compound of Step A was prepared from 3-(3-aminomethyl-phenyl)-propionic acid methyl ester hydrochloride salt, of Preparation 44, and benzofuran-2-carbaldehyde using the method described in Example 1, Step A except the imine was formed in MeOH at reflux over 3 h. 1H NMR (400 MHz, CDCl3) δ 7.50 (dd, 1H), 7.42 (d, 1H), 7.25-7.14 (m, 5H), 7.07 (d, 1H), 6.55 (d, 1H), 3.91 (s, 2H), 3.79 (s, 2H), 3.64 (s, 3H), 2.92 (t, 2H), 2.60 (t, 2H).

reactant | 3-(3-aminomethyl-phenyl)-propionic acid methyl ester hydrochloride salt | Cl.COC(CCC1=CC(=CC=C1)CN)=O
reactant | benzofuran-2-carbaldehyde | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
solvent | MeOH | CO | CH4O
product | 3-(3-{[(Benzofuran-2-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC=1OC2=C(C1)C=CC=C2)=O | C20H21NO3
